### PR TITLE
[Merged by Bors] - feat: port `Data.Set.Intervals.UnorderedInterval`

### PR DESCRIPTION
**Pull request by winstonyin**

### CODE REVIEW

**Comment by winstonyin** [comment]
Due to problems with scoped notation and clashes with `List`, I've temporarily removed `scoped[Interval]` and changed the interval notation from `[a, b]` to `[[a, b]]`. There are some proofs that used `tauto` that need to be rewritten before the tactic is ready.

File: Mathlib/Data/Set/Intervals/UnorderedInterval.lean [hunk 1]
```diff
@@ -0,0 +1,390 @@
...
+variable [Lattice α] {a a₁ a₂ b b₁ b₂ c x : α}
+
+/-- `interval a b` is the set of elements lying between `a` and `b`, with `a` and `b` included.
+Note that we define it more generally in a lattice as `set.Icc (a ⊓ b) (a ⊔ b)`. In a product type,
+`interval` corresponds to the bounding box of the two elements. -/
+def interval (a b : α) : Set α :=
+  Icc (a ⊓ b) (a ⊔ b)
+#align set.interval Set.interval
+
+-- Porting note: temporarily remove `scoped[Interval]` and use `[[]]` instead of `[]` before fix
```
Comment (semorrison) [inline Mathlib/Data/Set/Intervals/UnorderedInterval.lean:61]: What fix? Is there a link to a discussion or PR?

File: Mathlib/Data/Set/Intervals/UnorderedInterval.lean [hunk 2]
```diff
@@ -0,0 +1,390 @@
...
+interval as defined in this file is always the set of things lying between `a` and `b`, regardless
+of the relative order of `a` and `b`.
+
+For real numbers, `interval a b` is the same as `segment ℝ a b`.
+
+In a product or pi type, `interval a b` is the smallest box containing `a` and `b`. For example,
+`interval (1, -1) (-1, 1) = Icc (-1, -1) (1, 1)` is the square of vertices `(1, -1)`, `(-1, -1)`,
+`(-1, 1)`, `(1, 1)`.
+
+In `finset α` (seen as a hypercube of dimension `fintype.card α`), `interval a b` is the smallest
```
Comment (semorrison) [inline Mathlib/Data/Set/Intervals/UnorderedInterval.lean:31]:
```suggestion
In `Finset α` (seen as a hypercube of dimension `Fintype.card α`), `interval a b` is the smallest
```

File: Mathlib/Data/Set/Intervals/UnorderedInterval.lean [hunk 3]
```diff
@@ -0,0 +1,390 @@
...
+    [[a₁, b₁]] ⊆ [[a₂, b₂]] ↔ min a₂ b₂ ≤ min a₁ b₁ ∧ max a₁ b₁ ≤ max a₂ b₂ :=
+  interval_subset_interval_iff_le'
+#align set.interval_subset_interval_iff_le Set.interval_subset_interval_iff_le
+
+/-- A sort of triangle inequality. -/
+theorem interval_subset_interval_union_interval : [[a, c]] ⊆ [[a, b]] ∪ [[b, c]] := fun x => by
+  simp only [mem_interval, mem_union]
+  cases' le_total a c with h1 h1 <;>
+  cases' le_total x b with h2 h2 <;>
+  -- Porting note: restore `tauto`
```
Comment (semorrison) [inline Mathlib/Data/Set/Intervals/UnorderedInterval.lean:230]:
```suggestion
```
If `aesop` works, that's fine.

File: Mathlib/Data/Set/Intervals/UnorderedInterval.lean [hunk 4]
```diff
@@ -0,0 +1,390 @@
...
+    rwa [mem_interval, Subtype.mk_le_mk, Subtype.mk_le_mk, Subtype.mk_le_mk, Subtype.mk_le_mk,
+      ← mem_interval]
+  · intros h a' b' c' hc
+    have := h a' b' c' a'.2 b'.2 c'.2
+    apply this
+    rwa [mem_interval, Subtype.mk_le_mk, Subtype.mk_le_mk, Subtype.mk_le_mk, Subtype.mk_le_mk,
+      ← mem_interval] at hc
+  -- Porting note: `simp` can't `rw` under `∀`
+  -- simp [monotoneOn_iff_monotone, antitoneOn_iff_antitone, monotone_or_antitone_iff_interval,
+    -- mem_interval]
```
Comment (semorrison) [inline Mathlib/Data/Set/Intervals/UnorderedInterval.lean:265]: Can you link to a discussion about this? I'm skeptical!

File: Mathlib/Data/Set/Intervals/UnorderedInterval.lean [hunk 5]
```diff
@@ -0,0 +1,390 @@
...
+#align set.monotone_on_or_antitone_on_iff_interval Set.monotoneOn_or_antitoneOn_iff_interval
+
+-- Porting note: what should the naming scheme be here?
```
Comment (semorrison) [inline Mathlib/Data/Set/Intervals/UnorderedInterval.lean:268]: Can you clarify? What is the question here? Isn't it just called `interval_oc`? If there's been a discussion elsewhere please link to it.

File: Mathlib/Data/Set/Intervals/UnorderedInterval.lean (hunk 1 above)
Comment (winstonyin) [reply Mathlib/Data/Set/Intervals/UnorderedInterval.lean:61]: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/scoped.5BNS.5D/near/316207443

Perhaps fix isn’t the right word. I meant a workaround or solution.

File: Mathlib/Data/Set/Intervals/UnorderedInterval.lean (hunk 3 above)
Comment (winstonyin) [reply Mathlib/Data/Set/Intervals/UnorderedInterval.lean:230]: In some cases Aesop actually didn’t work where tauto used to, and I’ve written up a proof manually. Where Aesop did work, I’ve also sometimes replaced it with the generated proof

File: Mathlib/Data/Set/Intervals/UnorderedInterval.lean (hunk 4 above)
Comment (winstonyin) [reply Mathlib/Data/Set/Intervals/UnorderedInterval.lean:265]: It’s possible this is a misdiagnosis. I’ll look into it some more

File: Mathlib/Data/Set/Intervals/UnorderedInterval.lean (hunk 5 above)
Comment (winstonyin) [reply Mathlib/Data/Set/Intervals/UnorderedInterval.lean:268]: The auto generated name was `intervalOc`, because it is a subset. The current name is closer to the `Ioc` naming scheme, but it would be an exception to the rule

File: Mathlib/Data/Set/Intervals/UnorderedInterval.lean (hunk 4 above)
Comment (winstonyin) [reply Mathlib/Data/Set/Intervals/UnorderedInterval.lean]: The problem actually came down to the difference in ordering of `∀` as expanded by Lean3 and by mathport. I've opened a thread [on Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/mathport.20.E2.88.80.20a.20b.20c.20.E2.88.88.20s/near/316850904)

File: Mathlib/Data/Set/Intervals/UnorderedInterval.lean (hunk 5 above)
Comment (winstonyin) [reply Mathlib/Data/Set/Intervals/UnorderedInterval.lean]: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/.60interval_oc.60.20naming.20scheme/near/316853344

Comment (semorrison) [reply Mathlib/Data/Set/Intervals/UnorderedInterval.lean]: Keep as `interval_oc`, and add a link to the zulip thread.

**Comment by semorrison** [comment]
bors merge
